US04006144
17 g of 10-chloro-10,11-dihydro-2-trifluoromethyl-dibenzo[b,f]thiepin in 90 ml of chloroform and 26.2 g of 3-[2-(1-piperazinyl)-ethyl]-2-oxazolidinone are heated under reflux for 14 hours. The mixture is evaporated and the residue treated with ice-water, ether and 2-N aqueous sodium hydroxide. After equilibration, the organic phase is washed with water and acidified with ethanolic hydrochloric acid. The precipitate which separates is filtered off and dissolved in about 400 ml of water. The aqueous solution is extracted with ether. The aqueous solution is treated with ice, made alkaline with aqueous sodium hydroxide solution and extracted with about 350 ml of benzene. The benzene phase is dried over sodium sulphate, filtered and evaporated. There is obtained 3-[2-[4-(10,11-dihydro-2-trifluoromethyl-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2 -oxazolidinone as an oil. By treatment with maleic acid there is obtained the corresponding maleate which is crystallised from ethanol/ether; melting point 168°-169° C.

reactant | 10-chloro-10,11-dihydro-2-trifluoromethyl-dibenzo[b,f]thiepin | 17 g | ClC1CC2=C(SC3=C1C=CC=C3)C=CC(=C2)C(F)(F)F | C15H10ClF3S
reactant | 3-[2-(1-piperazinyl)-ethyl]-2-oxazolidinone | 26.2 g | N1(CCNCC1)CCN1C(OCC1)=O | C9H17N3O2
solvent | chloroform | 90 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[2-[4-(10,11-dihydro-2-trifluoromethyl-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2 -oxazolidinone | FC(C1=CC2=C(SC3=C(C(C2)N2CCN(CC2)CCN2C(OCC2)=O)C=CC=C3)C=C1)(F)F | C24H26F3N3O2S
